US08445674B2
B) 3-[(3-Chloro-4-trifluoromethyl-phenyl)-methoxycarbonylmethyl-amino]-propionic acid tert-butyl ester
In analogy to the procedure described for intermediate 40B, 3-(3-chloro-4-trifluoromethyl-phenylamino)-propionic acid tert-butyl ester and methyl bromoacetate gave the title compound in 34% yield as yellow oil. MS: 396.12 (MH+, Cl).

reactant | 3-(3-chloro-4-trifluoromethyl-phenylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNC1=CC(=C(C=C1)C(F)(F)F)Cl)=O | C14H17ClF3NO2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | 3-[(3-Chloro-4-trifluoromethyl-phenyl)-methoxycarbonylmethyl-amino]-propionic acid tert-butyl ester | 34% yield | C(C)(C)(C)OC(CCN(CC(=O)OC)C1=CC(=C(C=C1)C(F)(F)F)Cl)=O | C17H21ClF3NO4
